US04361559
9-Fluoro-11β-hydroxy-17,17-bis[(4-methoxyphenyl)-thio]androsta-1,4-dien-3-one
To a solution of 9-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione (3.18 g) in a mixture of dry dichloromethane (40 ml) and glacial acetic acid (40 ml) containing p-methoxybenzenethiol (5.6 g) is added boron trifluoride etherate (3.0 ml) and the resulting solution is stirred for 1.5 hours. It is then poured into water (500 ml) and extracted with chloroform. The chloroform extracts are combined, washed with saturated sodium bicarbonate solution and water, dried (MgSO4) and concentrated in vacuo to a syrupy residue. This is absorbed on a column of silica gel (50 g) made up in chloroform-hexane (1:1) and the column is eluted successively with chloroform-hexane (1:1), chloroform and chloroform-ethyl acetate mixtures (95:5 and 90:10) to elute successively p-methoxybenzenethiol contaminated with some steroidal impurities, the title compound (3.0 g), a small amount of an undentified compound and unreacted starting material (1.0 g). The 3.0 g of material is refluxed with ethyl acetate (30 ml), cooled and filtered to leave the analytical specimen (dried at 0.3 mm of Hg, 100° C., 18 hours) of the title compound (2.8 g), melting point 209°-211° C., with consistent spectral data.

reactant | 9-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione | 3.18 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)=O)=O)C | C19H23FO3
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | p-methoxybenzenethiol | 5.6 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | boron trifluoride etherate | 3.0 ml | B(F)(F)F.CCOCC
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 9-Fluoro-11β-hydroxy-17,17-bis[(4-methoxyphenyl)-thio]androsta-1,4-dien-3-one | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)(SC2=CC=C(C=C2)OC)SC2=CC=C(C=C2)OC)=O)C | C33H37FO4S2
